US07897815B2
2-{4-[[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-(2,2,2-trifluoro-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol
In analogy to example 22.2, from 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol and 4-chloromethyl-5-methyl-2-(3-chloro-phenyl)-oxazole was prepared 2-{4-[[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-(2,2,2-trifluoro-ethyl-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol, yellow solid, MS: 547 (MH+, 1Cl).

reactant | 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)NCC(F)(F)F)(F)F | C11H8F9NO
reactant | 4-chloromethyl-5-methyl-2-(3-chloro-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC(=CC=C1)Cl | C11H9Cl2NO
product | 2-{4-[[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-(2,2,2-trifluoro-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | ClC=1C=C(C=CC1)C=1OC(=C(N1)CN(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CC(F)(F)F)C | C22H16ClF9N2O2
